US07754757B2
Ethyl 4-aminobicyclo[2.2.2]octane-1-carboxylate (115 mg) was dissolved in N,N-dimethylformamide (1.5 mL) and diisopropylethylamine (100 μL) was added to the solution. (2S)-1-(2-Bromoacetyl)pyrrolidine-2-carbonitrile (120 mg) in N,N-dimethylformamide (1 mL) was then added dropwise at room temperature. The mixture was stirred for 2 hours at room temperature and was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluant: chloroform: methanol=10:1) to give (2S)-1-[[N-(4-ethoxycarbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (95.1 mg).

reactant | Ethyl 4-aminobicyclo[2.2.2]octane-1-carboxylate | 115 mg | NC12CCC(CC1)(CC2)C(=O)OCC | C11H19NO2
reactant | diisopropylethylamine | 100 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S)-1-(2-Bromoacetyl)pyrrolidine-2-carbonitrile | 120 mg | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (2S)-1-[[N-(4-ethoxycarbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 95.1 mg | C(C)OC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](CCC2)C#N | C18H27N3O3
